US05296344
A mixture of 4-ethoxycarbonylaniline (82.6 g), acetonylacetone (68.5 g) and concentrated sulfuric acid (one drop) were heated at 150° C. for one hour. The reaction mixture was diluted with ethyl acetate and washed with water, followed by drying and concentrating, whereby 1-(4-ethoxycarbonylphenyl)-2,5-dimethylpyrrole was obtained.

reactant | 4-ethoxycarbonylaniline | 82.6 g | C(C)OC(=O)C1=CC=C(N)C=C1 | C9H11NO2
reactant | acetonylacetone | 68.5 g | C(C(=O)C)CC(C)=O | C6H10O2
catalyst | sulfuric acid | one drop | S(O)(O)(=O)=O | H2O4S
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-(4-ethoxycarbonylphenyl)-2,5-dimethylpyrrole | C(C)OC(=O)C1=CC=C(C=C1)N1C(=CC=C1C)C | C15H17NO2
